US08309602B2
5-Chloro-2,4-dinitro-N-(4′-methoxyphenyl)aniline (IV-2)
2,4-Dichloro-1,5-dinitrobenzene (II-1, 0.5 g, 2.11 mmol) and p-methoxyaniline (III-2, 0.2 g, 2.11 mmol) were dissolved in 5 mL DMSO. To the solution were added K2CO3 (0.58 g, 4.22 mmol) and metal Cu in catalytic amount. The mixture was allowed to react at 115° C. for 2 hours with stirring in an atmosphere of nitrogen. The resultant was poured into ice water, stirred to precipitate a solid. The solid was filtered, washed with water several times, dried, and separated on silica gel column (petroleum ether/ethyl acetate) to obtain a bronzing solid (IV-2, 0.68 g, 67%). 1H NMR (CDCl3) δ ppm 3.88 (3H, s, OCH3), 7.02 (1H, s, ArH-6), 7.03 (2H, d, J=8.96 Hz, ArH-3′, 5′), 7.21 (2H, d, J=8.96 Hz, ArH-2′, 6′), 9.07 (1H, s, ArH-3), 9.73 (1H, s, NH).

reactant | 2,4-Dichloro-1,5-dinitrobenzene | 2.11 mmol, 0.5 g | ClC1=C(C=C(C(=C1)Cl)[N+](=O)[O-])[N+](=O)[O-] | C6H2Cl2N2O4
reactant | p-methoxyaniline | 2.11 mmol, 0.2 g | COC1=CC=C(N)C=C1 | C7H9NO
reactant | K2CO3 | 4.22 mmol, 0.58 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 5-Chloro-2,4-dinitro-N-(4′-methoxyphenyl)aniline | ClC=1C(=CC(=C(NC2=CC=C(C=C2)OC)C1)[N+](=O)[O-])[N+](=O)[O-] | C13H10ClN3O5
